US04374137
6-Chloro-2'-(N,S-dimethylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)isoquinoline] hydroiodide
A solution of 6-chloro-2'-(N-methylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (12.0 g) and iodomethane (7.4 g) methanol (150 ml) and ethanol (100 ml) is heated under reflux for four hours. Removal of solvents in vacuo yields a solid which, upon trituration with ether, yields product as a solid (16.4 g, 99%). An analytical sample is recrystallized from ethyl acetate/methanol to yield a white solid, 181°-182° (dec.).

reactant | 6-chloro-2'-(N-methylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 12.0 g | ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C(NC)=S)O2)C=C1 | C18H17ClN2OS
reactant | iodomethane | 150 ml, 7.4 g | IC | CH3I
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 6-Chloro-2'-(N,S-dimethylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)isoquinoline] hydroiodide | 16.4 g, 99% | I.ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C(NC)=SC)O2)C=C1 | InChI=1S/C19H21ClN2OS.HI/c1-21-18(24-2)22-11-14-5-3-4-6-16(14)19(12-22)10-13-7-8-15(20)9-17(13)23-19;/h3-9,21,24H,10-12H2,1-2H3;1H
